US07056937B2
PREPARATION OF N1-(1H-BENZOIMIDAZOL-2-YL)-ETHANE-1,2-DIAMINE
A mixture of 2-chloro-1H-benzoimidazole (1 g) in 4 mL of ethane-1,2-diamine was heated to 100 C for several hours until complete by HPLC. The reaction was allowed to cool and diluted with a mixture of chlororform and isopropanol (3:1). The organic phase was washed with water then dried and concentrated to give 216 mg of product as a solid which was used in the next step without further purification. MS(ES): m/e (El*) 177.1 [M+H]

reactant | 2-chloro-1H-benzoimidazole | 1 g | ClC1=NC2=C(N1)C=CC=C2 | C7H5ClN2
solvent | ethane-1,2-diamine | 4 mL | C(CN)N | C2H8N2
solvent | isopropanol | C(C)(C)O | C3H8O
product | N1-(1H-BENZOIMIDAZOL-2-YL)-ETHANE-1,2-DIAMINE | 216 mg | N1C(=NC2=C1C=CC=C2)NCCN | C9H12N4
